US09234153B2
Synthesis of 2-(9-anthracenylmethoxy)ethanol
To a separate flask under an inert atmosphere was added 9-bromoethylanthracene, 10 mL anhydrous THF, and 5 mL anhydrous dimethylsulfoxide. The resulting mixture was added to the solution prepared above. The resulting reaction mixture was then stirred for 15 hrs at room temperature. The mixture was then slowly quenched using saturated NaHCO3. The products were extracted with dichloromethane and dried over sodium sulfate. The solvents were evaporated under reduced pressure and purified using flash column chromatography.

reactant | 9-bromoethylanthracene | BrCCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H13Br
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-(9-anthracenylmethoxy)ethanol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)COCCO | C17H16O2
